US07432270B2
1-{2-[((S)1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidin-5yl}-ethanone
A mixture of 1-{(S)-2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-piperidin-1-yl}-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone (0.5 g) and 1-ethoxyvinyl)tributyltin (0.42 ml) tetrakis(triphenylphosphine)palladium[0} (0.06 g) was boiled in dioxane (8 ml) for 16 h. 2N Hydrochloric acid was added, the mixture stirred for 90 min, water was added and the mixture extracted (×3) with ethyl acetate. The combined ethyl acetate extracts were dried, solvent removed at reduced pressure and the residue column chromatographed (silica gel, ethyl acetate→2% methanol ethyl acetate to give the title compound (0.3 g) as a yellow foam.

reactant | 1-{(S)-2-[(5-Bromo-pyrimidin-2-ylamino)-methyl]-piperidin-1-yl}-1-[4-(4-fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanone | 0.5 g | BrC=1C=NC(=NC1)NC[C@H]1N(CCCC1)C(=O)C1=NN(C=C1C1=CC=C(C=C1)F)C | C21H22BrFN6O
reactant | tributyltin | 0.42 ml, 0.06 g | C(CCC)[Sn](CCCC)CCCC
reactant | Hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 1-{2-[((S)1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidin-5yl}-ethanone | 0.3 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1[C@@H](CCCC1)CNC1=NC=C(C=N1)C(C)=O | C23H25FN6O2
